US05733923
By the method used in Example 1, Part D, 1.6 g (4.9 mmol) of 1-([1,1'-biphenyl]-2-ylmethyl)-4-methoxy-2-methyl-1H-indole was O-demethylated by treating it with 20 mL of 1M BBr3 /CH2 Cl2. The crude product was chromatographed on silica gel and eluted with 20% EtOAc/hexane to give 841 mg (55% yield) of 1-([1,1'-biPhenyl]-2-ylmethyl)-4-hydroxy-2-methyl-1H-indole.

reactant | 1-([1,1'-biphenyl]-2-ylmethyl)-4-methoxy-2-methyl-1H-indole | 4.9 mmol, 1.6 g | C1(=C(C=CC=C1)CN1C(=CC2=C(C=CC=C12)OC)C)C1=CC=CC=C1 | C23H21NO
reactant | Cl2 | ClCl | Cl2
solvent | BBr3 | 1M, 20 mL | B(Br)(Br)Br | BBr3
product | 1-([1,1'-biPhenyl]-2-ylmethyl)-4-hydroxy-2-methyl-1H-indole | 841 mg, 55% yield | C1(=C(C=CC=C1)CN1C(=CC2=C(C=CC=C12)O)C)C1=CC=CC=C1 | C22H19NO
